US08012976B2
9-(4-Fluorophenyl)-8-(4-((3-methylpiperazin-1-yl)methyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of tert-butyl 4-(4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzyl)-2-methylpiperazine-1-carboxylate (70 mg, 0.123 mole) in 2 ml of HCl-acetonitrile was stirred for 2 hours. Concentrated and the residue was purified by prep-HPLC to afford the title produce as a white solid (30 mg, yield 52%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 0.87 (d, J=6.4 Hz, 3H), 1.49 (t, J=10 Hz, 1H), 1.83 (t, J=10 Hz, 1H), 2.55 (m, 2H), 2.64 (m, 2H), 2.75 (m, 1H), 3.32 (s, 3H), 4.34 (d, J=9.2 Hz, 1H), 4.72 (d, J=9.2 Hz, 1H), 6.97-7.01 (m, 2H), 7.13-7.24 (m, 7H), 7.37-7.41 (m, 2H), 7.55-7.59 (m, 1H), 12.15 (s, 1H); LC-MS (ESI) m/z: 470 (M+1)+.

reactant | tert-butyl 4-(4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzyl)-2-methylpiperazine-1-carboxylate | 0.123 mole, 70 mg | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(CN3CC(N(CC3)C(=O)OC(C)(C)C)C)C=C2 | C33H36FN5O3
solvent | HCl acetonitrile | 2 ml | Cl.C(C)#N
product | 9-(4-Fluorophenyl)-8-(4-((3-methylpiperazin-1-yl)methyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 30 mg, yield 52% | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=C2)CN2CC(NCC2)C | C28H28FN5O
